US06852731B2
4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzaldehyde
To 4-(2-hydroxyethoxy)benzaldehyde (commercial, 0.5 g, 3 mmol) dissolved in DMF (10 mL) is added imidazole (0.4 g, 6 mmol) and tert-butyldimethylsilylchloride (0.53 g, 3.5 mmol). Reaction mixture is stirred for 20 h. at room temperature. TLC analysis (hexane:ethyl acetate,7:3) shows small amounts of unreacted starting material. Additional tert-butyldimethylsilylchloride (0.25 g, 1 mmol) is added and stirring continued for 16 h. The reaction is quenched with saturated aqueous ammonium chloride (20 mL) and diluted further with ethyl ether (20 mL). Aqueous layer is separated and extracted thrice with ether (10 mL). Combined organics dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel using a gradient of 2% to 5% ethyl acetate in hexanes to provide 0.42 g of the title compound.

reactant | 4-(2-hydroxyethoxy)benzaldehyde | 3 mmol, 0.5 g | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
reactant | imidazole | 6 mmol, 0.4 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 3.5 mmol, 0.53 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | hexane | CCCCCC | C6H14
reactant | tert-butyldimethylsilylchloride | 1 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzaldehyde | 0.42 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC=C(C=O)C=C1 | C15H24O3Si
